US08183380B2
Step A: 4-Methoxy-benzofuran-3-one oxime:
A mixture of 4-methoxy-benzofuran-3-one (CAS no: 7169-35-9) (4.9 g, 19 mmol), sodium acetate (3.06 g, 38 mmol) and hydroxylamine hydrochloride (2.58 g, 38 mmol) in ethanol (40 mL) was refluxed for 6 h. Cooled to 23° C., filtered the precipitate off, washed with ethanol and dried in high vacuum to give the title compound as a white solid (5.93 g, 100%); MS: m/e=180.2 (M+H+).

reactant | 4-methoxy-benzofuran-3-one | COC1=CC=CC2=C1C(CO2)=O | C9H8O3
reactant | sodium acetate | 38 mmol, 3.06 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 38 mmol, 2.58 g | Cl.NO
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4-Methoxy-benzofuran-3-one oxime | 5.93 g, 100% | COC1=CC=CC2=C1C(CO2)=NO | C9H9NO3
